US07601716B2
[4-(1-Benzyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)phenyl]-(4-(pyrrolidin-1-yl)piperidin-1-yl)methanone
4-(1-Benzyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid (20 mg) was reacted with 4-(1 pyrrolidinyl)piperidine as in General Procedure 8 to give the title compound as a yellow solid (22% yield). M.p. 120° C., LCMS: m/z=482.26 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.53-1.65 (m, 7H), 1.90-2.04 (m, 3H), 2.25-2.35 (m, 1H), 2.53-2.63 (m, 4H), 2.91-3.06 (m, 2H), 3.38-3.44 (m, 2H), 3.59-3.62 (m, 2H), 4.48 (s, 2H), 5.01 (bs, 1H), 6.84 (s, 1H), 7.28-7.40 (m, 9H), 7.70 (s, 1H).

reactant | 4-(1-Benzyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)benzoic acid | 20 mg | C(C1=CC=CC=C1)N1C2=C(NCC1)N=CC(=C2)C2=CC=C(C(=O)O)C=C2 | C21H19N3O2
reactant | 4-(1 pyrrolidinyl)piperidine | N1(CCCC1)C1CCNCC1 | C9H18N2
product | [4-(1-Benzyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl)phenyl]-(4-(pyrrolidin-1-yl)piperidin-1-yl)methanone | 22% yield | C(C1=CC=CC=C1)N1C2=C(NCC1)N=CC(=C2)C2=CC=C(C=C2)C(=O)N2CCC(CC2)N2CCCC2 | C30H35N5O
